US05670505
To a stirred mixture of trans-3-(3-pyridyl)acrylic acid (100 mg) and triethylamine (0.19 ml) in dichloromethane (10 ml) was added 1-naphthoyl chloride (0.1 ml) at -15° C. After stirring for 30 minutes, a solution of (2S)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (300 mg) in dichloromethane (10 ml) was added at -15° C. and the resulting mixture was stirred for 30 minutes at the same temperature and then for 1 hour at room temperature. Dichloromethane and water were added to the reaction mixture and the organic layer was separated, washed successively with aqueous saturated sodium bicarbonate solution, water, 0.5N hydrochloric acid and brine, and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the residue was purified on a silica gel column (20 g) eluting with a mixture of dichloromethane and methanol (100:2) to give (2S)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethyl benzyl)-4-[3-(3-pyridyl)-trans-acryloyl]piperazine (0.34 g).

reactant | trans-3-(3-pyridyl)acrylic acid | 100 mg | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
reactant | triethylamine | 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | 1-naphthoyl chloride | 0.1 ml | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | (2S)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 300 mg | FC(C=1C=C(C(=O)N2[C@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2S)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethyl benzyl)-4-[3-(3-pyridyl)-trans-acryloyl]piperazine | 0.34 g | FC(C=1C=C(C(=O)N2[C@H](CN(CC2)C(\C=C\C=2C=NC=CC2)=O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C30H27F6N3O2
